US05686455
(a) 1-(4-fluorophenyl)-2-(4-pyridyl)-ethanediol
To a sting solution of 2.0 g (11.2 mmol) 4-(t-butyldimethylsilyloxy)methyl pyridine in 8 ml of THF at -20° C. was added 14.7 mmol of lithium di-iso-propyl amide in THF. Thirty minutes later 4-fluorobenzaldehyde (1.66 g, 13.4 mmol) was added at which point the solution was allowed to warm slowly to ft. The reaction was quenched with NH4Cl and extracted with ether to afford the crude protected diol which following concentration was dissolved in THF and treated with 17 ml of a 1 molar solution of tetrabutylammonium fluoride in THF overnight. Standard aqueous workup afforded the crude diol which was further purified by column chromatography (hex/EtOAc) to yield 1.6 g (62%) of the titled material.

reactant | 4-(t-butyldimethylsilyloxy)methyl pyridine | 11.2 mmol, 2.0 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=NC=C1 | C12H21NOSi
reactant | lithium di-iso-propyl amide | 14.7 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-fluorobenzaldehyde | 13.4 mmol, 1.66 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | THF | 8 ml | C1CCOC1 | C4H8O
product | 1-(4-fluorophenyl)-2-(4-pyridyl)-ethanediol | 1.6 g, 62% | FC1=CC=C(C=C1)C(CC1=CC=NC=C1)(O)O | C13H12FNO2
